US04242518
80 parts of 3-hydroxy-dihydrothiophene-4-carboxylic acid methyl ester are dissolved in 800 parts by volume of methylene chloride. 74.3 parts of sulfuryl chloride in 200 parts by volume of methylene chloride are added in the course of one hour at from 10° to 15° C., whilst passing nitrogen into the mixture. The mixture is then stirred for 30 minutes at from 10° to 15° C., after which it is extracted by shaking with 500 parts of water and 300 parts by volume of a 5 percent strength by weight sodium bicarbonate solution. The organic phase is dried and evaporated. The residue is distilled. 60.5 parts (77% of theory) of 3-hydroxy-thiophene-4-carboxylic acid methyl ester of boiling point 76°-84° C./0.07-0.1 mbar are obtained.

reactant | 3-hydroxy-dihydrothiophene-4-carboxylic acid methyl ester | COC(=O)C=1C(CSC1)O | C6H8O3S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-hydroxy-thiophene-4-carboxylic acid methyl ester | 77% | COC(=O)C=1C(=CSC1)O | C6H6O3S
